US07199239B2
{4-[(Butyl{6-[4-(trifluoromethyl)phenyl]pyrazin-2-yl}amino)methyl]-2-methylphenoxy}acetic acid
To a solution of ethyl {4-[(butyl{6-[4-(trifluoromethyl)phenyl]pyrazin-2-yl}amino)methyl]-2-methylphenoxy}acetate (150 mg, 0.3 mmol) in methanol (4 mL) and tetrahydrofuran (4 mL), was added 2M NaOH (2 mL). After stirring for 1 h at room temperature the solvent was removed in vacuo and the residue acidified with 2M HCl, before extraction into ethyl acetate (2×50 mL). The organic solution was dried (MgSO4) and the solvents removed in vacuo to afford the title compound as a bright yellow solid (115 mg).

reactant | ethyl {4-[(butyl{6-[4-(trifluoromethyl)phenyl]pyrazin-2-yl}amino)methyl]-2-methylphenoxy}acetate | 0.3 mmol, 150 mg | C(CCC)N(C1=NC(=CN=C1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C27H30F3N3O3
reactant | NaOH | 2M, 2 mL | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | {4-[(Butyl{6-[4-(trifluoromethyl)phenyl]pyrazin-2-yl}amino)methyl]-2-methylphenoxy}acetic acid | 115 mg | C(CCC)N(C1=NC(=CN=C1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)O)C=C1)C | C25H26F3N3O3
